US05952362
To a solution of crude (2-methyl-3-amino-4-chlorophenoxy)acetonitrile (11.53 g) in toluene (PhMe) (60 mL) was added methanesulfonyl chloride (MsCl) (4.5 mL, 6.7 g) and the resultant solution was warmed to 35-40° C. Pyridine (py) (4.7 mL, 4.6 g) was then added slowly over 2 h. The resultant mixture was permitted to cool to ambient temperature and stirred for 24 h. The crude product mixture was then partitioned between 1N hydrochloric acid (100 mL), and a mixture of ethyl acetate (300 mL) and tetrahydrofuran (100 mL). The organic phase was washed with water, then concentrated to ca. 200 mL, leading to crystallization of the desired product. The white crystalline product was collected, rinsed with toluene, and dried to afford 10.40 g (65.1% field) of N-(6-chloro-3-cyanomethoxy-2-methylphenyl)-methanesulfonamide (>97% pure by HPLC). This material could optionally be recrystallized from isopropanol.

reactant | (2-methyl-3-amino-4-chlorophenoxy)acetonitrile | 11.53 g | CC1=C(OCC#N)C=CC(=C1N)Cl | C9H9ClN2O
reactant | methanesulfonyl chloride | 4.5 mL, 6.7 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Pyridine | 4.7 mL, 4.6 g | N1=CC=CC=C1 | C5H5N
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | N-(6-chloro-3-cyanomethoxy-2-methylphenyl)-methanesulfonamide | 10.40 g | ClC1=CC=C(C(=C1NS(=O)(=O)C)C)OCC#N | C10H11ClN2O3S
